US04327094
2-Propargyl-3,5-dioxo-4-hydroxymethyl-2,3,4,5-tetrahydro-1,2,4-triazine
A mixture of 0.76 g 2-propargyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine, 15 ml 37% aqueous formalin and 7.5 ml dimethylformamide was heated under reflux for 1.5 hours. The solvent was removed under reduced pressure to obtain a white semi-solid. This semi-solid was purified by chromatography on silica gel using a chloroform/methyl alcohol (75:1) mixed solvent to obtain 0.61 g of a white semi-crystalline product.

reactant | 2-propargyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 0.76 g | C(C#C)N1N=CC(NC1=O)=O | C6H5N3O2
reactant | formalin | 15 ml | C=O | CH2O
solvent | dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
product | 2-Propargyl-3,5-dioxo-4-hydroxymethyl-2,3,4,5-tetrahydro-1,2,4-triazine | 0.61 g, Yield 67.8% | C(C#C)N1N=CC(N(C1=O)CO)=O | C7H7N3O3
